US07807691B2
2-(1,3-benzodioxol-5-yl)-4,4-dimethylpyrrolidine
To a solution of 5-(1,3-benzodioxol-5-yl)-3,3-dimethyl-3,4-dihydro-2H-pyrrole (363 mg, 1.673 mmol) in acetonitrile (35 mL) add sodium triacetoxyborohydride (390 mg, 1.84 mmol) and stir at room temperature for two days. Then add more sodium triaxetoxyborohydride (390 mg, 1.84 mmol) and acetic acid and stir for 3 h. Add more add sodium triaxetoxyborohydride (390 mg, 1.84 mmol). After 0.5 h dissolve the reaction by adding methanol and load onto an ion-exchange SCX-2 (25 g), wash with methanol and then extract with ammonia in methanol. Concentrate under reduced pressure the basic solution, to afford 289 mg (79%) of the title compound. MS: 220 [M+H]+; 1H NMR (300 MHz, CDCl3): δ 6.90 (s, 1H), 6.72-6.75 (m, 1H), 6.72-6.75 (m, 1H), 5.91 (s, 2H), 4.20-4.25 (m, 1H), 2.68-2.72 (m, 1H), 2.75-2.79 (m, 1H), 1.72-1.98 (m, 2H), 1.45-1.1.53 (m, 1H), 1.10-1.18 (m, 6H).

reactant | 5-(1,3-benzodioxol-5-yl)-3,3-dimethyl-3,4-dihydro-2H-pyrrole | 1.673 mmol, 363 mg | O1COC2=C1C=CC(=C2)C=2CC(CN2)(C)C | C13H15NO2
reactant | sodium triacetoxyborohydride | 1.84 mmol, 390 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium | [Na] | Na
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 35 mL | C(C)#N | C2H3N
solvent | methanol | CO | CH4O
product | 2-(1,3-benzodioxol-5-yl)-4,4-dimethylpyrrolidine | 289 mg, 79% | O1COC2=C1C=CC(=C2)C2NCC(C2)(C)C | C13H17NO2
